US07417050B2
(a) 2-Triethylstannyloxazole
n-Butyllithium (1.6M, 11 mL, 17.38 mmol) was added to a solution of oxazole (1.0 g, 14.48 mmol) in anhydrous ether (20 mL) stirred at −78° C. under nitrogen. After 5 min, triethylstannyl bromide (2.07 g, 7.24 mmol) was added, then the reaction mixture was allowed to warm to room temperature, and stirred for another 1 h. The mixture was quenched, and washed with 1N sodium hydroxide, dried through MgSO4, and then the solvent was evaporated to give the sub-title compound as a brown oily residue (1.0 g), which was used without further purification in the next step.

reactant | n-Butyllithium | 17.38 mmol, 1.6M, 11 mL | C(CCC)[Li]
reactant | oxazole | 14.48 mmol, 1.0 g | O1C=NC=C1 | C3H3NO
reactant | triethylstannyl bromide | 7.24 mmol, 2.07 g | C(C)[Sn](CC)(CC)Br
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2-Triethylstannyloxazole | C(C)[Sn](C=1OC=CN1)(CC)CC | InChI=1S/C3H2NO.3C2H5.Sn/c1-2-5-3-4-1;3*1-2;/h1-2H;3*1H2,2H3;
